US07452893B2
To a solution of crude butyl cis-4-{[(tert-butoxycarbonyl)amino]methyl}cyclohexanecarboxylate (28.4 g, approximately 79.3 mmol) in methanol (200 ml) was added dropwise over five minutes 2N sodium hydroxide solution (400 mmol). The mixture was stirred 18 hours at ambient temperature under nitrogen. The mixture was concentrated under reduced pressure to remove methanol. To the aqueous residue was added methyl orange (1 mg) and 3N hydrochloric acid was added to adjust the mixture to pH 4. The mixture was extracted with ethyl acetate (3×200 ml). The extract was washed with water (100 ml), and brine (100 ml), dried (sodium sulfate), filtered, and the solvent evaporated under reduced pressure to give cis-4-{[(tert-butoxycarbonyl)amino]methyl}cyclohexanecarboxylic acid (18.76 g, 92%) as an off-white solid. MS: 258.3 (M+1).

reactant | butyl cis-4-{[(tert-butoxycarbonyl)amino]methyl}cyclohexanecarboxylate | approximately 79.3 mmol, 28.4 g | C(C)(C)(C)OC(=O)NC[C@H]1CC[C@H](CC1)C(=O)OCCCC | C17H31NO4
reactant | sodium hydroxide | 400 mmol, 2N | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | cis-4-{[(tert-butoxycarbonyl)amino]methyl}cyclohexanecarboxylic acid | 18.76 g, 92% | C(C)(C)(C)OC(=O)NC[C@H]1CC[C@H](CC1)C(=O)O | C13H23NO4
